US04839365
When 1.56 ml (1.1 equivalents) of acetyl chloride was added to a solution of 3.26 g (0.02 mmol) of 2-bromothiophene in 30 ml of CH2Cl2, the mixture foamed and turned black. After stirring for 1 hr. at room temperature, the mixture was mixed with ice and concentrated hydrochloric acid. While being decolored with active carbon, the mixture was extracted with CH2Cl2, whereby 3.53 g (Yield : 86.1%) of the objective product, 2-acetyl-5-bromothiophene (b-1) was obtained as colorless crystals.

reactant | acetyl chloride | 1.56 ml, 1.1 equivalents | C(C)(=O)Cl | C2H3ClO
reactant | 2-bromothiophene | 0.02 mmol, 3.26 g | BrC=1SC=CC1 | C4H3BrS
reactant | hydrochloric acid | Cl | ClH
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-acetyl-5-bromothiophene | C(C)(=O)C=1SC(=CC1)Br | C6H5BrOS
